US08895582B2
To a solution of isoquinolin-3-yl-carbamic acid 2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-5-oxo-pentyl ester (75 mg crude mixture, 0.15 mmol) in anhydrous DCE (2 mL) and DIEA (56 uL, 0.32 mmol) was added the triazolopiperazine HCl salt (27 mg, 0.17 mmol) at RT. After 5 min of stirring at RT, sodium triacetoxyborohydride (98 mg, 0.45 mmol) was added in one portion. The slurry was stirred for 16 h at RT, the diluted in CH2Cl2 and washed with saturated aq. NaHCO3 and brine. After drying the solution over Na2SO4, the reaction mixture was concentrated and the resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O to give isoquinolin-3-yl-carbamic acid 2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-5-(5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazin-7-yl)-pentyl ester (30 mg, 30%) LRMS (M+H+) m/z 595.2.

reactant | isoquinolin-3-yl-carbamic acid 2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-5-oxo-pentyl ester | 0.15 mmol, 75 mg | ClC1=C(CNC(N(C)C(COC(NC=2N=CC3=CC=CC=C3C2)=O)CCC=O)=O)C=CC=C1F | C24H24ClFN4O4
reactant | DIEA | 0.32 mmol, 56 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | triazolopiperazine HCl salt | 0.17 mmol, 27 mg | Cl.N1N=NC2=C1NCCN2
reactant | sodium triacetoxyborohydride | 0.45 mmol, 98 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | isoquinolin-3-yl-carbamic acid 2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-5-(5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazin-7-yl)-pentyl ester | 30 mg, 30% | ClC1=C(CNC(N(C)C(COC(NC=2N=CC3=CC=CC=C3C2)=O)CCCN2CC=3N(CC2)C=NN3)=O)C=CC=C1F | C29H32ClFN8O3
